US06124452
Benzaldehyde (0.35 mL, 3.5 mmol), 3,4-difluoropyrrole (0.33 g, 3.2 mmol), and 250 mL of distilled CH2Cl2 were placed under N2 in a 500 mL round-bottom flask equipped with a magnetic stir bar. The reaction was stirred while BF3 etherate (0.5 mL, 3.9 mmol) was added via syringe. To monitor the reaction, aliquots were periodically removed from the reaction vessel, oxidized with DDQ, neutralized with pyridine, and chromatographed by silica gel TLC using CHCl3 as eluent. After 30 minutes, DDQ (1 g) and pyridine (5 mL) were added. The reaction was stirred for 12 hours, filtered through a short silica gel column using CH2Cl2 as eluent, and evaporated. The resulting solid was washed three times with 10 mL of pentane followed by three washes with 10 mL of ethanol. The product was recrystallized from toluene/hexane by layering to yield 127 mg of pure 2,3,7,8,12,13,17,18-octafluoro-5,10,15,20-tetraphenylporphyrin in 21% yield (first crop). A second crystallization using identical conditions yielded an additional 75 mg for a total isolated yield of 33%. The product is characterized by the following data: 1H NMR (360 MHz, CDCl3) δ 8.03 (d, 8H, J1 =6.7 Hz), 7.74 (m, 12H), -4.18 (s, 2H); 19F NMR (500 MHz, CDCl3, -50° C.) δ -141.1 (s, 4F), -146.4 (s, 4F); UV-vis (CH2Cl2) 402 (5.31), 499 (4.21), 532 (3.71), 581 (3.55), 637 (3.60); low resolution FAB MS 758 (calcd 758). Anal. Calcd for C44H22F8N4 : C, 69.66; H, 2.92; N, 7.38. Found: C, 69.43; H, 2.90; N, 6.95.

reactant | Benzaldehyde | 3.5 mmol, 0.35 mL | C(C1=CC=CC=C1)=O | C7H6O
reactant | 3,4-difluoropyrrole | 3.2 mmol, 0.33 g | FC1=CNC=C1F | C4H3F2N
reactant | BF3 | 3.9 mmol, 0.5 mL | B(F)(F)F | BF3
solvent | CH2Cl2 | 250 mL | C(Cl)Cl | CH2Cl2
product | 2,3,7,8,12,13,17,18-octafluoro-5,10,15,20-tetraphenylporphyrin | 127 mg, 21% yield | FC1=C2NC(=C1F)C(=C1C(=C(C(=N1)C(=C1C(=C(C(N1)=C(C=1C(=C(C(N1)=C2C2=CC=CC=C2)F)F)C2=CC=CC=C2)F)F)C2=CC=CC=C2)F)F)C2=CC=CC=C2 | C44H22F8N4
